### PR TITLE
feat(OEIS) add theorem and conjecture for A357513

### PR DESCRIPTION
**Pull request by mo271**

### CODE REVIEW

**Comment by felixpernegger** [comment]
I dont know a good alternative, but linking to just a single commit feels a little bit odd.

File: FormalConjectures/OEIS/357513.lean [hunk 1]
```diff
@@ -0,0 +1,110 @@
...
+See the License for the specific language governing permissions and
+limitations under the License.
+-/
+
+import FormalConjectures.Util.ProblemImports
+
+open Nat
+
+
+/-!
```
Comment (smmercuri) [inline FormalConjectures/OEIS/357513.lean:21]:
```suggestion
open Nat

/-!
```

File: FormalConjectures/OEIS/357513.lean [hunk 2]
```diff
@@ -0,0 +1,109 @@
...
+theorem five : a 5 = 1335793103 := by
+  unfold a
+  norm_num only [Nat.choose, Finset.sum_Icc_succ_top, Finset.Icc_self, Finset.sum_singleton]
+
+/--
+We have  $a(p-1) \equiv 0 \pmod{p^4}$ for all primes $p \ge 3$ except $p=7$.
+
+proved by AlphaProof
+-/
+@[category research formally solved using formal_conjectures at "https://github.com/google-deepmind/formal-conjectures/commit/9c7f21e7d4445637538bc1817b058b9b3f31bd2b", AMS 11]
```
Comment (mo271) [inline FormalConjectures/OEIS/357513.lean]:
```suggestion
@[category research solved, AMS 11,
formal_proof at "https://github.com/google-deepmind/formal-conjectures/commit/9c7f21e7d4445637538bc1817b058b9b3f31bd2b"]
```

File: FormalConjectures/OEIS/357513.lean [hunk 3]
```diff
@@ -0,0 +1,110 @@
...
+  unfold a
+  norm_num only [Nat.choose, Finset.sum_Icc_succ_top, Finset.Icc_self, Finset.sum_singleton]
+
+/--
+We have  $a(p-1) \equiv 0 \pmod{p^4}$ for all primes $p \ge 3$ except $p=7$.
+
+proved by AlphaProof
+-/
+@[category research solved, AMS 11,
+formal_proof at "https://github.com/google-deepmind/formal-conjectures/commit/9c7f21e7d4445637538bc1817b058b9b3f31bd2b"]
```
Comment (mo271) [inline FormalConjectures/OEIS/357513.lean]:
```suggestion
formal_proof using formal_conjectures at "https://github.com/google-deepmind/formal-conjectures/commit/9c7f21e7d4445637538bc1817b058b9b3f31bd2b"]
```
